Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
___ line placement ___

 
History of Present Illness:
___ yo M with a h/o cholangiocarcinoma p/w fever. Pt reports that 
on the day of admission he had a fever at home to 101.8. He 
denies any associated sxs including n/v/d/abd pain. He denies 
cp/dyspnea/cough. He denies chills. 
.
Of note pt has a h/o metal stent placement x2  d/t biliary 
obstruction.Pt admitted to BI ___: ERCP done ___ 
showed obstruction of both metal biliary stents. He had stents 
ballooned and opened. Plastic stents threaded through. Since d/c 
pt has been feeling well until current presentation.
.
In the ED: 103.1 133 156/75 20 100%. Na 129. ast 47 alt55 ap 275 
t bili 1.4. lactate 2.2. wbc 9.4. u/a negative. cxr negative. CT 
abd: "Status post biliary stent placement for known 
cholangiocarcinoma. The left hepatic lobe is atrophic with mild 
intrahepatic biliary dilatation."  Pt given 
cefepime/vanc/tylenol.
.
ROS: as above; o/w complete ROS negative
 
Past Medical History:
ONCOLOGIC HISTORY:
DIAGNOSIS: T3N2M0 (stage ___ unresectable extrahepatic
cholangiocarcinoma, seen C5D1 gemcitabine/cisplatin

ONCOLOGIC HISTORY:  
- ___: weight loss of about 20 lbs over 3 weeks. One day of
gastric distention, nausea and this resolved.  
- ___: started to develop intermittent nausea as well as a
change in his bowel movements, which were previously normal once
a day, becoming several times a day with soft stools.  He states
that over the summer, he was more fatigued than usual with
burping.  He presented to his primary care physician at which
point he had laboratory testing, and was referred for an
ultrasound of his liver followed by a CT of his abdomen.  He was
seen by gastroenterologist, Dr. ___, at ___ and was referred to ___ for ERCP.  
- ___: Admitted for ERCP. During that period, his
initial bilirubin was 1.6, his alkaline phosphatase 395, his AST
was 181, ALT 251 and his CA ___ was 172.  His CEA was within
normal limits.  During this admission, he had any ERCP, which
showed ductal dilation bilaterally, left more than right and a
plastic stent was placed in the left hepatic duct.  He was
discharged on ___ and during his admission, his maximum
bilirubin was 6.4. 
- ___: repeat ERCP which continue to show bilateral right
and left hepatic lobe ductal dilation with marked migration of
the stent into the small intestine.  He had bilateral plastic
stents placed at that time point.  During his initial workup, he
has also undergone a CT of his chest, which showed one small 
lung nodule of 3 mm in size and a MRCP of the abdomen, which 
indicated this ductal dilation and a mass at the bifurcation of 
the right anterior and left intrahepatic ducts worrisome for 
type IV ___ cholangiocarcinoma.  Cytology was 
suspicious for carcinoma. 
- ___: repeat ERCP with exchange of plastic for metal stent. 

- ___: start of cisplatin/gemcitabine cycle 1
- ___ seen in ED for BPV 
- ___ cycle ___: hospitalized for right biliary obstruction. ERCP to
clear stent of sludge/stones with blood ctx + pan sensitivite
enteroccocus
- ___: cycle 3, last dose ___ and ___: hospitalized for GNR bacteremia and
C. diff and then again for delerium, discharged home
- ___: C4 D1 Gem/Cis
- ___ completed CK radiation and resume C5D1 Gem/Cis
.
PMH:
GERD
___
BPH
Migraines controlled on Atenolol
Arthritis of the knees and shoulder on the right
 
Social History:
___
Family History:
His grandfather had a cancer of the bone.  He has no other 
family history of malignancy.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
t98.5 112/50 82 18 96%ra
NAD
eomi, perrl
neck supple
no ___
chest clear
rrr 
abd benign
ext w/wp
neuro: non-focal
mild erythema over cheeks

DISCHARGE PHYSICAL EXAM:
VS 98.1, 130/64, 74, 18, 98% on RA
GENERAL: NAD  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
HEENT: anicteric sclera
NECK: nontender supple neck, no LAD
CARDIAC: RRR, S1/S2, no mrg  
LUNG: CTAB, no w/r/r  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, + hepatomegaly
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, strength ___ in all 4 ext, sensation 
grossly intact
 
Pertinent Results:
ADMISSION LABS
___ 09:19PM   LACTATE-2.2*
___ 08:50PM   WBC-9.6 RBC-3.02* HGB-8.8* HCT-27.9* MCV-92 
MCH-29.3 MCHC-31.6 RDW-15.5
___ 08:50PM   PLT COUNT-106*
___ 08:50PM   PLT COUNT-106*
___ 07:11PM   ___ TEMP-39.7 PO2-46* PCO2-27* PH-7.53* 
TOTAL CO2-23 BASE XS-0 INTUBATED-NOT INTUBA
___ 07:11PM   LACTATE-2.8*
___ 06:55PM   GLUCOSE-137* UREA N-10 CREAT-0.9 SODIUM-129* 
POTASSIUM-3.8 CHLORIDE-95* TOTAL CO2-23 ANION GAP-15
___ 06:55PM   ALT(SGPT)-47* AST(SGOT)-55* ALK PHOS-274* TOT 
BILI-1.4
___ 06:55PM   LIPASE-21
___ 06:55PM   ALBUMIN-4.1
___ 06:55PM   WBC-9.4# RBC-3.65* HGB-10.7* HCT-33.7* MCV-92 
MCH-29.3 MCHC-31.7 RDW-15.2
___ 06:55PM   NEUTS-95.7* LYMPHS-2.8* MONOS-1.0* EOS-0.3 
BASOS-0.3
___ 06:55PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 06:55PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 06:55PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 06:55PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 06:55PM URINE  MUCOUS-RARE

DISCHARGE LABS
___ 06:50AM BLOOD WBC-4.5 RBC-3.19* Hgb-9.2* Hct-29.6* 
MCV-93 MCH-29.0 MCHC-31.2 RDW-16.3* Plt Ct-47*
___ 06:50AM BLOOD Plt Ct-47*
___ 06:50AM BLOOD Glucose-107* UreaN-6 Creat-0.6 Na-136 
K-4.0 Cl-102 HCO3-27 AnGap-11
___ 06:50AM BLOOD ALT-20 AST-27 AlkPhos-196* TotBili-0.4
___ 06:50AM BLOOD Calcium-8.9 Phos-3.1 Mg-1.___ yo M with a h/o cholangiocarcinoma with biliary obstruction 
s/p stent placement presenting with fever, found to have ESBL E. 
coli bacteremia and no biliary obstruction.

ACTIVE ISSUES:
# ESBL E. coli bacteremia: Initial low-grade fevers have 
resolved.  Although his LFTs and Tbili were downtrending, a 
biliary source is still the most likely source of infection.  CT 
chest was negative for e/o pulmonary infection.  He initially 
had right upper quadrant abdominal pain, which has resolved with 
antibiotics now.  Patient previously on vanc/cefepime/flagyl, 
but per ID, transitioned to meropenem and PO vanc (for recent C. 
diff) on ___.  Patient has been followed by ERCP as well who has 
no current plans to replace his stent as he is scheduled for 
this on ___ with Dr. ___ shoud he re-present with 
cholangitis, they would likely replace his plastic stent and the 
patient may need a PTC drain.  Plan will be to discharge on 
ertapenem (d ___ for 2 week course; PO vancomycin 
can be stopped upon completion of ertapenem course.

# Cholangiocarcinoma: Stage IV dx, C8D5 cis/gem, tolerating 
chemo regimen.  
 
# HTN:  Continued home atenolol.

# GERD:  Continued home PPI.

# Rosacea: Continued home tp flagyl.

***TRANSITIONAL ISSUES***
- Patient to undergo stent exchange on ___ with ERCP
- Will f/u with outpatient oncologist (Dr. ___ 
post-discharge
- ___ from the IV company will remove the PICC line upon 
completion of the antibiotics course
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Loratadine 10 mg PO DAILY 
2. MetronidAZOLE Topical 1 % Gel 1 Appl TP BID 
3. Pantoprazole 40 mg PO Q24H 
4. Atenolol 50 mg PO DAILY 
5. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
6. OLANZapine 2.5-5 mg PO HS 
7. Ondansetron 8 mg PO Q8H:PRN n/v 
8. Terazosin 10 mg PO HS 

 
Discharge Medications:
1. Atenolol 50 mg PO DAILY 
2. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
3. Loratadine 10 mg PO DAILY 
4. MetronidAZOLE Topical 1 % Gel 1 Appl TP BID 
5. OLANZapine 2.5-5 mg PO HS 
6. Ondansetron 8 mg PO Q8H:PRN n/v 
7. Pantoprazole 40 mg PO Q24H 
8. Terazosin 10 mg PO HS 
9. Vancomycin Oral Liquid ___ mg PO/NG Q6H 
RX *vancomycin 125 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*48 Capsule Refills:*0
10. ertapenem 1 gram injection q24h Duration: 2 Weeks 
From ___. 
RX *ertapenem [Invanz] 1 gram 1 gram IV q24h Disp #*12 Vial 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
E. coli bacteremia

Secondary:
cholangiocarcinoma
recent cholangitis status-post biliary stent placement

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___.  You were admitted to the hospital because of 
fevers.  We were concerned that you may have had a blockage of 
your stents.  However, your CT imaging showed no blockage or 
evidence of infection around your liver/gallbladder and your 
stents appeared completely open.  Your labs were also reassuring 
that you do not have an infection of your bile ducts.  It was 
found that you have E. coli bacteria growing in your blood 
stream. A PICC line was placed for the IV antibiotic course.

Please follow-up with your outpatient providers as instructed 
below.

Thank you for allowing us to participate in your care.  All best 
wishes for your recovery.

Sincerely,
Your ___ medical team
 
Followup Instructions:
___